US09260427B2
To a 10 ml flask were added (4-hydroxyphenyl)boronic acid (60.7 mg, 0.44 mmol), sodium carbonate decahydrate (26.4 mg, 0.44 mmol), methyl (S)-1-((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoyl)pyrrolidine-3-carboxylate INT-35 (130.0 mg, 0.44 mmol), Pd(dppf)Cl2 (16.09 mg, 0.022 mmol), THF (2.0 mL), CH3CN (2.0 ml) and water (1.0 mL). The solution was degassed using N2 bubbling for 10 min. The reaction mixture was heated to 80° C. for 2 hours. The reaction mixture was dried under reduced pressure to remove the solvent and diluted in DCM (20 mL). The mixture was extracted with DCM (3×10 mL) and aqueous NaHCO3 (3×10 mL). The combined organics were dried over MgSO4 and evaporated. The final compound was purified by column chromatography (50% DCM in hexane) to afford 102.0 mg (76%) of methyl (S)-1-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-3-carboxylate INT-37 as a solid powder. LCMS-ESI (m/z) calculated for C34H36N4O5S: 612.3. found 613.3 [M+H]+, tR=3.138 min. (Method 16). 1H NMR (400 MHz, DMSO) δ 9.81 (s, 1H), 9.13 (d, J=1.5 Hz, 2H), 8.77 (dd, J=11.4, 8.1 Hz, 1H), 8.31 (d, J=8.2 Hz, 2H), 7.73 (d, J=3.8 Hz, 1H), 7.69 (d, J=8.4 Hz, 2H), 7.46 (d, J=8.3 Hz, 2H), 6.99-6.84 (m, 3H), 4.88 (s, 1H), 3.72 (d, J=8.9 Hz, 1H), 3.62 (s, 1H), 3.59 (d, J=6.4 Hz, 1H), 3.50 (ddd, J=18.7, 12.0, 5.8 Hz, 1H), 3.36 (d, J=7.5 Hz, 1H), 3.27-3.16 (m, 1H), 3.18-2.97 (m, 3H), 2.15-1.95 (m, 2H), 1.88 (dd, J=12.5, 7.5 Hz, 1H), 1.32 (s, 9H).

reactant | (4-hydroxyphenyl)boronic acid | 0.44 mmol, 60.7 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate decahydrate | 0.44 mmol, 26.4 mg | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl (S)-1-((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoyl)pyrrolidine-3-carboxylate | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)N1C[C@H](CC1)C(=O)OC)NC(=O)C=1SC(=CC1)C(C)(C)C | C28H31BrN4O4S
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.022 mmol, 16.09 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1.0 mL | O | H2O
solvent | CH3CN | 2.0 ml | CC#N | C2H3N
product | methyl (S)-1-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-3-carboxylate | 102.0 mg, 76% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)N1C[C@H](CC1)C(=O)OC)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)O | C34H36N4O5S
